US07557114B2
(b) 1-(2,3-Dihydro-1H-isoindol-5-yl)-4-phenyl-piperidin-4-ol hydrochloride
Prepared in analogy to Example A3(e) from 5-(4-hydroxy-4-phenyl-piperidin-1-yl)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester and hydrochloric acid. Off-white solid. MS (m/e): 295.4 ([M+H]+, 100%).

reactant | 5-(4-hydroxy-4-phenyl-piperidin-1-yl)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2C1)N1CCC(CC1)(C1=CC=CC=C1)O | C24H30N2O3
reactant | hydrochloric acid | Cl | ClH
product | 1-(2,3-Dihydro-1H-isoindol-5-yl)-4-phenyl-piperidin-4-ol hydrochloride | Cl.C1NCC2=CC(=CC=C12)N1CCC(CC1)(O)C1=CC=CC=C1 | InChI=1S/C19H22N2O.ClH/c22-19(17-4-2-1-3-5-17)8-10-21(11-9-19)18-7-6-15-13-20-14-16(15)12-18;/h1-7,12,20,22H,8-11,13-14H2;1H
